US08536165B2
In a schlenck tube, a mixture of 2-bromo-3-methyl-5-nitropyridine (4.6 mmol, 1.0 g), phenylboronic acid (4.6 mmol, 0.560 g), PdCl2dppf.DCM (0.47 mmol, 0.4 g), Cs2CO3 (13.8 mmol, 4.5 g) in a dioxane/water 4:1 mixture (18 ml) was heated at 100° C. for 14 hours, under argon atmosphere. The solvent was evaporated and the crude mixture was extracted between water and ethyl acetate. The solid residue was purified by chromatography over SiO2 eluting with hexane/ethyl acetate mixtures affording 3-methyl-5-nitro-2-phenylpyridine (0.95 g, yield 97%) as major product.

reactant | 2-bromo-3-methyl-5-nitropyridine | 4.6 mmol, 1.0 g | BrC1=NC=C(C=C1C)[N+](=O)[O-] | C6H5BrN2O2
reactant | phenylboronic acid | 4.6 mmol, 0.560 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | DCM | 0.47 mmol, 0.4 g | C(Cl)Cl | CH2Cl2
reactant | Cs2CO3 | 13.8 mmol, 4.5 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane water | O1CCOCC1.O
product | 3-methyl-5-nitro-2-phenylpyridine | 0.95 g, yield 97% | CC=1C(=NC=C(C1)[N+](=O)[O-])C1=CC=CC=C1 | C12H10N2O2
